*** S5 S6 S7 all OFF / S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 S6 S7 all ON /S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 ON / S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S6 ON / S9 OFF***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S7 ON / S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S7 OFF / S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S6 OFF / S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 OFF /S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 10k
RVariable2 5 11 10k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 999 999 1k
R32 2 6 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 S6 S7 all OFF / S9 ON ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 S6 S7 all ON /S9 ON ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 ON / S9 ON ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S6 ON / S9 ON ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S7 ON / S9 ON ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
* AOUTPUT1_MAXV = 5.0
*** S7 OFF / S9 ON ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S6 OFF / S9 OFF ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 OFF /S9 ON ***
XA 1 999 999 4 0 7 7 8 0 10 11 0 13 14 LM348N
RVariable1 4 5 10k
RVariable2 5 11 10k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
R31 2 6 1k
R32 999 999 1k
C1 6 7 10p
V1 4 0 15
V2 0 11 15
V3 999 999 0
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0