*** BASIC Setup ***
XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
XD 12 13 4 11 14 LM741
RVariable1 4 5 100k
RVariable2 5 11 100k
C1 6 7 10p
Rx11 7 10 1k
Rx12 7 10 1k
Rx13 7 10 1k
Rx14 7 10 1k
Rx15 7 10 1k
Rx16 7 10 1k
R21 10 8 1k
R31 6 2 10k
R32 6 2 10k
R41 3 8 1k
Rx11 3 13 10k
Rx1 24 13 2 1k
Rx2 24 13 2 1k
Rx3 24 13 2 1k
Rx4 24 13 2 1k
D1 2 1 d1
D2 14 2 d1
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 0 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
.control
tran 20u 20m
run
print v(7) v(10)
dc V1 15 15 0.1
dc V2 15 15 0.1
run
print v(1) v(2) v(3) v(4) v(5) v(6) v(7) V(8) v(9) v(10) v(11) v(12) v(13) v(14) v(15)
.endc