*
R1 2 1 1k
RAmmeter 2 0 1m
V1 1 0 5
* INSTRUCTIONS: Configure the source to produce 5V DC, and construct a parallel resistive circuit with the 1k and 2k resistors provided. Place the ammeter device in series with the resistor. Swap the resistors, and observe the change in results.
* SIMULATION INSTRUCTIONS: Configure the source to produce 5V DC, and construct a simple voltage divider circuit that produces 3V at the intermediate node. Simulate the circuit to validate your results
* ACTION FUNCTION: Familiarisation
.control
tran 20u 1m
run
print v(2)/1m i(V1)*-1
.endc