*
R1 0 0 1k
R2 2 1 2k
R3 2 0 3k
R4 0 0 4k
R5 0 0 5k
V1 1 0 5
R6 0 0 6k
RAmmeter 2 1 1m
* INSTRUCTIONS: Configure the source to produce 5V DC, and construct a simple voltage divider circuit that produces 3V at the intermediate node. Simulate the circuit to validate your results
* ACTION FUNCTION: Familiarisation
.control
tran 50u 500m
run
print v(2) v(1)
.endc